US05578622
Synthesis of 3-(3-iodo-2-propynyloxy)-4-cyano-5-methylthioisothiazole (compound No. 1)
1.72 Grams of 3-hydroxy-4-cyano-5-methylthioisothiazole was dissolved in 20 ml of DMF, 0.7 g of potassium carbonate was added thereto, and then 1.3 g of propargyl bromide was added with stirring. After stirring at 50° C. for 1 hour, the reaction solution was ice-cooled, 3.0 g of iodine and 3.2 g of potassium iodide were added thereto, and then 6.6 g of a 10% KOH was gradually added dropwise with stirring. After addition, the reaction solution was stirred at room temperature for 1 hour. Water was added to the reaction solution to precipitate crystals, which were then collected by filtration and washed with water to obtain crude crystals. Recrystallization of the crude crystals from ether gave 2.5 g of crystals having a melting point of 145° to 146° C. (yield, 75%).

reactant | 3-hydroxy-4-cyano-5-methylthioisothiazole | OC1=NSC(=C1C#N)SC | C5H4N2OS2
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 1.3 g | C(C#C)Br | C3H3Br
reactant | iodine | 3.0 g | II | I2
reactant | potassium iodide | 3.2 g | [I-].[K+]
reactant | KOH | [OH-].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 3-(3-iodo-2-propynyloxy)-4-cyano-5-methylthioisothiazole | 2.5 g | IC#CCOC1=NSC(=C1C#N)SC | C8H5IN2OS2
